Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Cephalexin
 
Attending: ___
 
Chief Complaint:
s/p fall 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with mitral valve (porcine valve), afib, CHF on ___ 
transferred from ___ for trauma evaluation. Patient had a 
fall 3 days ago, states that he was getting into a truck and hit 
his shin and fell. No head strike, no LOC, full recall of event. 

Seen at ___ where he had negative CT head/c-spine, CXR, 
and pelvis XR. Patient discharged however continued to have 
Right lower chest pain with gradually worsening shortness of 
breath so returned to ___ today. Found to have R 8th rib 
fracture and hemothorax on noncontrast CT chest, transferred to 
___ for further care.

Patient has chronic shortness of breath on exertion which he
reports may have contributed to the initial fall. This has been
gradually getting worse for a year. Denies headache, neck pain,
LOC, vomiting, numbness, weakness, diarrhea, melena,
hematochezia, urinary symptoms.

 
Past Medical History:
Past Medical History:
Hypertension
Severe tricuspid regurgitation
Rheumatic heart disease
Atrial Fibrillation s/p cardioversion
Hyperlipidemia
Prostatic Hypertrophy causing urinary retention, foley changed 
q5
weeks (___)
CKD, baseline creatinine 1.4-2.2
Depression
Anxiety
Heart Block
Left plantar fascitis
GERD
Mild emphysema based on PFTs
Antral ulcer ___
Past Surgical History:
Appendectomy
Tonsillectomy
Hiatal Hernia repair
CABG/MVR/MAZE ___

 
Social History:
___
Family History:
Father with CAD, d. ___, mother, passed away from cancer
 
Physical Exam:
Admission Physical Exam:

Vitals:
97.5 77 130/75 12 98%RA

Exam:
Gen: NAD
HEENT: Brusing over R face; Laceration over R eye with sutures 
in
place, well-closed, c/d/I. 
Chest: Resps nonlabored
Abd: Soft, non-tender, no tympany although distended appearing.
GU: Foley in place, draining clear urine, with leg bag
Ext: Bruise over left shin with minimal hematoma. 

Discharge Physical Exam:
VS: T: 98.0, BP: 118/59, RR: 18, O2: 91% RA
General: A+Ox3, NAD
HEENT: normocephalic, right eyebrow laceration, 
well-approximated, no s/s infection
PULM: rhonchi b/l with expiration, no wheezing, breathing 
comfortably on room air
ABD: soft, mildly distended, non-tender
Extremities: warm, well-perfused b/l. No edema 

 
Pertinent Results:
___ 04:50PM   GLUCOSE-93 UREA N-32* CREAT-2.4* SODIUM-134 
POTASSIUM-3.9 CHLORIDE-98 TOTAL CO2-26 ANION GAP-14
___ 04:50PM   CK(CPK)-70
___ 04:50PM   cTropnT-0.04*
___ 04:50PM   CK-MB-3
___ 04:50PM   WBC-6.0 RBC-3.01* HGB-9.1* HCT-27.8* MCV-92 
MCH-30.2 MCHC-32.7 RDW-16.5* RDWSD-55.4*
___ 04:50PM   NEUTS-73.3* LYMPHS-9.7* MONOS-14.3* EOS-1.7 
BASOS-0.5 IM ___ AbsNeut-4.40 AbsLymp-0.58* AbsMono-0.86* 
AbsEos-0.10 AbsBaso-0.03
___ 04:50PM   PLT COUNT-153
___ 04:50PM   ___ PTT-45.4* ___

Imaging: 

___: CT ABD/PEL:  
1.  Small amount of intra-abdominal and intrapelvic fluid is 
simple in 
attenuation.  No definite evidence of hemoperitoneum, or other 
sequelae of 
acute trauma besides right lateral eighth rib fracture. 
  
2.  Extensive atherosclerotic disease in the abdominal aorta and 
its branch vessels. 
  
3.  Bilateral right greater the left pleural effusions, also 
simple in 
attenuation. 

___: TIB/FIB (AP & LAT) LEFT
 
No acute bony injury seen. 

___: CXR:
In comparison to ___ chest radiograph, a moderate 
sized right 
pleural effusion has slightly increased in size with associated 
worsening 
right basilar atelectasis and or consolidation.  No other 
relevant change. 

 
Brief Hospital Course:
Mr. ___ is an ___ year-old male who was transferred to ___ from 
an OSH after having being found to have a right 8th rib fracture 
and hemothorax on a non-contrast CT chest s/p fall 3 days prior. 
 He was admitted to the Trauma/Acute Care Surgery service for 
further medical care.  On HD1, the patient had a CT Abd/Pelvis 
to rule out intraabdominal bleeding as simple fluid surrounding 
the liver was demonstrated on imaging.  There was no evidence of 
hemoperitoneum, or other sequelae of acute trauma. It also 
revealed bilateral right greater the left pleural effusions, 
also simple in attenuation. 

The patient was noted to have ecchymosis on the left anterior 
aspect of his LLE, so an x-ray left tibula/fibula was ordered 
which was negative for fracture.  

On HD2, the patient was started on a regular diet, home meds and 
chest physical therapy was provided. On HD3, Physical Therapy 
worked with the patient and recommended discharge to rehab. His 
foley catheter was exchanged for a new catheter.  His eyebrow 
laceration sutures were removed. 

While in the hospital, the patient was alert and oriented pain 
was managed with oral acetaminophen and oxycodone prn. The 
patient remained stable from a cardiovascular standpoint; vital 
signs were routinely monitored. The patient remained stable from 
a pulmonary standpoint; vital signs were routinely monitored. 
Good pulmonary toilet, early ambulation and incentive spirometry 
were encouraged throughout hospitalization.
Patient's intake and output were closely monitored. The 
patient's fever curves were closely watched for signs of 
infection, of which there were none.The patient's blood counts 
were closely watched for signs of bleeding, of which there were 
none.
The patient's warfarin was initially held for INR of 3.0 and 
concern for hemothorax.  His warfarin was restarted at 0.5 mg on 
___. ___ dyne boots were used during this stay and was 
encouraged to get up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
amiodarone 100 mg tablet 1 tablet(s) by mouth once a day 
Atorvastatin 80 mg tablet 0.5 (One half) tablet(s) by mouth 
___ 
budesonide-formoterol [Symbicort] Symbicort 80 mcg-4.5 
mcg/actuation HFA aerosol inhaler 2 puffs mouth twice a day
nr finasteride [Proscar]  Dosage uncertain
ipratropium-albuterol 0.5 mg-3 mg(2.5 mg base)/3 mL nebulization 
soln
1 inhalation four times a day         
metoprolol tartrate 25 mg tablet 1 tablet(s) by mouth twice a 
day
Nitrostat 0.3 mg sublingual tablet 1 sublingually as needed for 
chest discomfort
oxycodone 5 mg capsule ___ capsule(s) by mouth every four (4) 
hours as needed for pain 
pantoprazole 40 mg tablet,delayed release 1 tablet,delayed 
release (___) by mouth qam 
spironolactone 25 mg tablet 0.5 (One half) tablet(s) by mouth 
daily/Dinner time
tamsulosin 0.4 mg capsule 1 capsule(s) by mouth once a day
torsemide 20 mg tablet 1 tablet(s) by mouth 2 tablets in morning 
and 1 tablet at bedtime 
warfarin 1 mg tablet ___ tab. on sun.,mon.,wed.,fri. and 1 tab. 
on tues. thurs. sat. tablet(s) by mouth dinner time 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain  
2. Amiodarone 100 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Docusate Sodium 100 mg PO BID 
please hold for loose stool  
5. Finasteride 5 mg PO DAILY 
6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
7. Metoprolol Tartrate 25 mg PO BID 
8. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
do NOT drink alcohol or drive while taking this medication  
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*30 Tablet Refills:*0
9. Pantoprazole 40 mg PO Q24H 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation  
11. Senna 8.6 mg PO BID:PRN constipation  
12. Spironolactone 12.5 mg PO DAILY 
13. Tamsulosin 0.4 mg PO QHS 
14. Torsemide 40 mg PO QAM 
15. Torsemide 20 mg PO QPM 
16. ___  MD to order daily dose PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Right 8th rib fracture, b/l pleural effusions, simple fluid 
around liver.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery service at ___ 
after suffering an earlier fall and were found to have a 
fracture of your right 8th rib and associated fluid surrounding 
the lung and a blood collection within the lung. While in the 
hospital, you had a repeat chest x-ray which was stable.  You 
additionally had a left lower leg x-ray which was negative for 
fracture. 

You have worked with Physical Therapy and are now medically 
cleared to be discharged to rehab to continue your recovery.  
Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___